US07700642B2
1.04 g of 1-methyl-2-phenyl-1H-indol, 0.64 g of methyl trans-3-methoxyacrylate, 94.5 mg of water and 6 mL of glacial acetic acid were mixed, 124 mg of phosphorus oxychloride was added into the mixture at an inner temperature of 25° C., the added mixture was stirred for 7 hours at the same temperature to cause a reaction. After completion of the reaction, 30 mL of water was added dropwise into the reaction liquid, 50 mL of ethyl acetate was added and extraction treatment was conducted, and the resulting organic layer was subjected to concentration treatment. The resultant concentrated residue was purified by flash chromatography, to obtain 1.11 g of methyl trans-3-(1-methyl-2-phenyl-1H-indol-3-yl)acrylate (yellow solid). Yield: 76%.

reactant | 1-methyl-2-phenyl-1H-indol | 1.04 g | CN1C(=CC2=CC=CC=C12)C1=CC=CC=C1 | C15H13N
reactant | methyl trans-3-methoxyacrylate | 0.64 g | CO/C=C/C(=O)OC | C5H8O3
reactant | phosphorus oxychloride | 124 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 30 mL | O | H2O
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
solvent | water | 94.5 mg | O | H2O
product | methyl trans-3-(1-methyl-2-phenyl-1H-indol-3-yl)acrylate | 1.11 g, Yield: 76% | CN1C(=C(C2=CC=CC=C12)/C=C/C(=O)OC)C1=CC=CC=C1 | C19H17NO2
